US04560799
(a) 4-Methyl-4-(3,5-di-tert-butyl-4-hydroxyphenylthio)-2-pentanone
8.48 Grams of mesityl oxide (0.084 moles) is added dropwise to a solution of 21.0 grams of 2,6 di-tert-butyl-4-mercaptophenol (0.088 moles) and one gram of triethylamine in 30 ml of toluene. The mixture is heated at 50°-55° C. for six hours. The solvent is then stripped off under vacuum and the residue retained at 60°-65° C. and 0.20 mm. Hg. for two hours. The residue is dissolved in toluene and purified by flash chromatography using silica gel. The product is isolated from solution by distilling off the volatiles under vacuum to a final pressure of 0.10 mm. Hg for five hours.

reactant | mesityl oxide | 0.084 moles | O=C(C)C=C(C)C | C6H10O
reactant | 2,6 di-tert-butyl-4-mercaptophenol | 0.088 moles, 21.0 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | triethylamine | one gram | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-4-(3,5-di-tert-butyl-4-hydroxyphenylthio)-2-pentanone | CC(CC(C)=O)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H32O2S
